* D:\felipe\UFSC\france2\s8b\ASE\EBE_homeworks\homework1\B_part_2.asc
XU1 Vin- N003 V+ V- N001 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU2 Vin+ N005 V+ V- N006 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
XU3 N004 N002 V+ V- Vo level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R1 N002 N001 40.1k
R77 Vo N002 40k
R3 N004 N006 40k
R4 N006 N005 25k
R5 N001 N003 25k
R6 0 N004 40k
RG N003 N005 50
V1 V+ 0 15
V2 0 V- 15
V3 Vin+ 0 AC 5
V4 Vin- 0 AC 5
;tran 1
.ac dec 1 10 10Meg
.lib UniversalOpAmp2.lib
.backanno
.end
