* Z:\home\gosmann\Documents\EBE\EBE_homeworks\homework2\sim_part2_ex6.asc
V1 +15V 0 15
V2 0 -15V 15
R5 N002 N001 1.5k
XU2 C2 N001 +15V -15V V2 UA741
R1 V2 P001 1k
C1 P001 C2 0.1µ
R2 C2 0 1k
C2 C2 0 0.1µ
R3 N001 0 1k
D1 N002 V2 D
D2 V2 N002 D
R4 N002 V2 5k
.model D D
.lib C:\users\root\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 100m 0 0.01m
.lib UA741.301
.ic V(C2)=10V
.backanno
.end
