*AD835 Macro-model
*Function:Multiplier
*
*Revision History:
*Rev.1 Feb 2015-Initials
*Copyright 2015 by Analog Devices
*
*Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spicemodels/license
*for License Statement. Use of this model indicates your acceptance
*of the terms and provisions in the License Statement.
*
*
*Not modeled:
*
*Parameters modeled include:
*   Multiplier scale factor adjustment, Vos, Ibias, input clipping voltage,CMRR
*   Open Loop Gain & Phase.
*
* Node assignments
*             Y1
*             |  Y2
*             |  | -Vs
*             |  |  |  Z   
*             |  |  |  | W  
*             |  |  |  |  | +Vs  
*             |  |  |  |  |  |  X2  
*             |  |  |  |  |  |  | X1
*             |  |  |  |  |  |  |  |   
.Subckt AD835 Y1 Y2 VN Z W VP X2 X1
*
*Input stage amplifier Y
*
CC12 0 42 2e-012
CC11 Y2 0 2e-012
RR22 Y1 42 10
DD14 42 21  Diode
DD13 22 42  Diode
VV18 Y2 22 0.7
VV17 21 Y2 0.7 
VV11 VP 43 3.05
VV10 40 VN 3.05
DD4 40 yout  Diode
DD3 yout 43  Diode
CC4 98 yout 4.547e-013
RR12 98 yout 1000
GI6 98 yout 38 Y2 0.001
*
EV9 42 38 44 98 1
CC3 39 44 1.59314e-013
RR11 39 44 1000000
RR10 98 44 1000 
EV8 39 98 37 98 20
RR9 37 Y2 5000000
RR8 42 37 5000000 
II5 Y2 0 1.2e-005 
II4 42 0 1e-005 
*
*Input stage amplifier X
*
RR23 X1 23 10
DD16 23 30  Diode
DD15 31 23  Diode
VV27 X2 31 0.7 
VV26 30 X2 0.7 
VV6 VP 28 3.05 
VV5 29 VN 3.05 
DD2 29 xout  Diode
DD1 xout 28  Diode
CC2 98 xout 4.547e-013
RR7 98 xout 1000
GI3 98 xout 27 X2 0.001
*
EV4 23 27 26 98 1
CC1 25 26 1.59314e-013
RR6 25 26 1000000
RR5 98 26 1000 
EV2 25 98 24 98 20
RR4 24 X2 5000000 
RR3 23 24 5000000 
II2 X2 0  1.2e-005
II1 23 0 1e-005
*
*input stage amplifier Z
*
VV13 VP 9 3.05
VV12 10 VN 3.05
DD6 10 zout  Diode
DD5 zout 9  Diode
CC5 98 zout 4.547e-013
GI9 98 zout W Z 0.001
RR13 W Z 1000000000
RR14 98 zout 1000
CC15 Z 0 2e-012
*
*Multiplier Core and scaling factor adjustment
*
GI10 98 45 VALUE = { {if((V(Z)/V(W))<(2.01/21),(V(xout)*V(yout))/(1.05*(1-(V(Z)/V(W)))),((V(xout)*V(yout))/(1.05)))}}
RR15 98 45 1
CC6 98 45 3.1831e-015
VV31 VP 35  1.3399 
DD22 45 35  Diode
VV30 34 VN 1.3399 
DD21 34 45  Diode
vV14 11 45 0
*
*Op-amp stage 
*
GI12 98 48 36 98 1.5708e-009
CC9 98 48 1e-013
RR20 98 48 636619800 
RR27 98 36 35000
VV29 33 VN 1.3399 
DD20 33 48  Diode
VV24 VP 32 1.3399 
DD19 48 32  Diode
RR18 VP 15 5000
RR16 VP 13 5000
QQ2 15 zout 14 Transistor
QQ1 13 11 12 Transistor
RR29 14 16 4483 
RR28 12 16 4483 
GI7 98 36 15 13 1
*
*output stage
*
VV23 47 W 0 
DD18 VN 19  Diode
DD17 VN 20  Diode
GI20 20 VN 48 47 0.1
GI13 19 VN 47 48 0.1
CC14 0 23 2e-012
CC13 X2 0 2e-012
DD12 VP 19  Diode
DD11 VP 20  Diode
DD10 48 17  Diode
DD9 18 48  Diode
VV22 47 18 0.974
VV21 17 47 0.974
RR25 47 VP 10
RR24 VN 47 10
GI16 VN 47 48 VN 0.1
GI15 47 VP VP 48 0.1
II11 16 VN 0.0001 
RR2 41 VP 1000
RR1 VN 41 1000
EV3 98 0 41 0 1
*
*models
*
.model  Diode  D
.MODEL Transistor NPN
.Ends

